US07901594B2
6,11-Dihydro-2,3-diiodo-5,7,8,9,10,12-hexapropylnaphthacene
n-Butyl lithium (3.0 ml, 4.8 mmols, 1.6mol/l) was added to a THF solution (20 ml) of Cp2ZrCl2 (0.702 g, 2.4 mmols) at −78° C. After the mixture was stirred for an hour, 1,2-bis(2-hexynyl)-3,4,5,6-tetrapropylbenzene (0.813 g, 2.0 mmols) was added to the mixture. A cooling bath was withdrawn, and the mixture was stirred for an hour. Tetraiodobenzene (1.16 g, 2.0 mmols), DMPU (0.73 ml, 6.0 mmols) and CuCl (0.416 g, 4.2 mmols) were added to the mixture. After stirring for an hour at 50° C., 3N HCl was added to terminate the reaction. The reaction mixture was extracted with chloroform. The extract was then washed with sodium hydrogencarbonate aqueous solution and brine. After the pressure was reduced, column chromatography was performed using silica gel as the packing material to give the title compound (0.477 g) as a pink solid. The isolation yield was 33%

reactant | n-Butyl lithium | 4.8 mmols, 1.6mol/l, 3.0 ml | C(CCC)[Li]
reactant | 1,2-bis(2-hexynyl)-3,4,5,6-tetrapropylbenzene | 2.0 mmols, 0.813 g | C(C#CCCC)C1=C(C(=C(C(=C1CCC)CCC)CCC)CCC)CC#CCCC | C30H46
reactant | Tetraiodobenzene | 2.0 mmols, 1.16 g | IC1=C(C(=C(C=C1)I)I)I | C6H2I4
reactant | DMPU | 6.0 mmols, 0.73 ml | CN1CCCN(C1=O)C | C6H12N2O
reactant | HCl | 3N | Cl | ClH
catalyst | CuCl | 4.2 mmols, 0.416 g | Cl[Cu]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 6,11-Dihydro-2,3-diiodo-5,7,8,9,10,12-hexapropylnaphthacene | 0.477 g, yield was 33% | IC1=CC2=C(C=3CC4=C(C(=C(C(=C4CC3C(=C2C=C1I)CCC)CCC)CCC)CCC)CCC)CCC | C36H48I2
